US08937078B2
Step A: Preparation of 4-(2,6-dimethyl-phenoxy)-3-methyl-nitrobenzene.
A solution of 2,6-dimethylphenol (0.87 g, 7.1 mmol), potassium carbonate (0.98 g, 7.1 mmol), 2-fluoro-5-nitrotoluene (1.0 g, 6.4 mmol) and DMF (20 mL) was stirred at 100° C. for 2 h. The reaction mixture was diluted with 100 mL water and extracted with 250 mL EtOAc. The organic layer was washed with brine, dried with sodium sulfate and concentrated to provide the crude titled compound (1.5 g, 92%). This material was used without purification: MS (ESI): mass calcd. for C15H15NO3, 257.3; m/z found, 258.1 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.16 (dd, J=2.8, 0.7 Hz, 1H), 7.92 (dd, J=9.1, 2.7 Hz, 1H), 7.18-7.07 (m, 3H), 6.33 (d, J=9.0 Hz, 1H), 2.50 (s, 3H), 2.09 (s, 6H).

reactant | 2,6-dimethylphenol | 7.1 mmol, 0.87 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | potassium carbonate | 7.1 mmol, 0.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoro-5-nitrotoluene | 6.4 mmol, 1.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-(2,6-dimethyl-phenoxy)-3-methyl-nitrobenzene | 1.5 g, 92% | CC1=C(OC2=C(C=C(C=C2)[N+](=O)[O-])C)C(=CC=C1)C | C15H15NO3
